US06982348B2
5) benzyl 3-hydroxy-3-(5-phenoxypyridin-2-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate
To a solution of zinc chloride (4.57 g, 33.6 mmol) in diethyl ether (100 ml) was added sodium borohydride (2.54 g, 67.1 mmol), and the mixture was stirred at room temperature for 30 min. Insoluble material was filtered off, and to the filtrate was added a solution of benzyl 3-oxo-3-(5-phenoxypyridin-2-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)-benzyl]propanoate (9.32 g, 16.8 mmol, crude) in diethyl ether (100 ml) at 0° C. The mixture was stirred for 30 min. and 1N hydrochloric acid was added to stop the reaction. After neutralization with saturated aqueous sodium hydrogen carbonate, water (200 ml) was further added and the mixture was extracted with ethyl acetate (500 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-1:1) to give the objective substance (5.07 g, 54%, crude). The present compound was used for the next reaction as a crude compound.

reactant | sodium borohydride | 67.1 mmol, 2.54 g | [BH4-].[Na+]
reactant | benzyl 3-oxo-3-(5-phenoxypyridin-2-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)-benzyl]propanoate | 16.8 mmol, 9.32 g | O=C(C(C(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=NC=C(C=C1)OC1=CC=CC=C1 | C30H23F4NO5
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 33.6 mmol, 4.57 g | [Cl-].[Zn+2].[Cl-]
solvent | water | 200 ml | O | H2O
product | benzyl 3-hydroxy-3-(5-phenoxypyridin-2-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate | OC(C(C(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=NC=C(C=C1)OC1=CC=CC=C1 | C30H25F4NO5
